US05064946
1-(5-O-Acetyl-3-Azido-2,3-Dideoxy-β-D-erythro-pentofuranosyl)-5-Methyl-4-(Propylamino)-2-(1H)-Pyrimidinone
1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(1,2,4-triazol-1-yl)-2-(1H)-pyrimidinone (0.5 g, 1.4 mMol) was dissolved in dry CH3CN (50 mL) and treated with n-propylamine (0.6 mL, 7 mMol) at ambient temperature for 48 hours. The reaction was evaporated to an oil and chromatographed on silica gel eluted with 20:1 CHCl3/MeOH (v/v). The appropriate fractions were combined and evaporated to give the title compound as a solid: mp=138°-140° C.; UV(nm): at pH 1 λmax=285,217(ε=14900,12200), λmin=246(ε=2500); at pH 13 λmax=274(ε=12500), λmin=250(ε=9000), λsh=236(ε=10000); H NMR(DMSO-d6) δ7.32(s,1H,H6), 7.24-7.18(m,1H,--NH--), 6.13(t,1H,H1',J=6.44 Hz), 4.45-4.40(m,1 H,H3'), 4.23-4.21(m,2H,--NH--CH2--), 4.00-3.92(m,1H,H4'), 3.26-3.19(m,2H,H5'), 2.33-2.26(m,2H,H2'), 2.05(s,3H,acetyl), 1.85(s,3H,5-CH3), 1.57-1.46(m,2H,--CH2--CH3), 0.88-0.81(t,3H,--CH2--CH3).

reactant | 1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(1,2,4-triazol-1-yl)-2-(1H)-pyrimidinone | 1.4 mMol, 0.5 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(N=C(C(=C1)C)N1N=CN=C1)=O)N=[N+]=[N-] | C14H16N8O4
reactant | n-propylamine | 7 mMol, 0.6 mL | C(CC)N | C3H9N
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 1-(5-O-Acetyl-3-Azido-2,3-Dideoxy-β-D-erythro-pentofuranosyl)-5-Methyl-4-(Propylamino)-2-(1H)-Pyrimidinone | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(N=C(C(=C1)C)NCCC)=O)N=[N+]=[N-] | C15H22N6O4
